US07338958B2
g) Production of 5-bromo-N4-isopropyl-N2-[4-(methylsulfinyl)phenyl)-pyrimidine-2,4-diamine
1.77 g (4.6 mmol) of 5-bromo-N4-isopropyl-N2-[4-(methylsulfanyl)phenyl)-pyrimidine-2,4-diamine hydrochloride is taken up in 40 ml of DCM and mixed with 1.73 g (5.5 mmol) of 3-chloroperoxybenzoic acid (55%). The batch is stirred for 90 minutes at room temperature and then diluted with DCM. It is washed with saturated NaHCO3 solution and saturated NaCl solution. The organic phase is dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (DCM/EtOH 9:1). 553 mg (1.5 mmol, corresponding to 33% of theory) of the product is obtained.

reactant | 5-bromo-N4-isopropyl-N2-[4-(methylsulfanyl)phenyl)-pyrimidine-2,4-diamine hydrochloride | 4.6 mmol, 1.77 g | Cl.BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)SC)NC(C)C
reactant | 3-chloroperoxybenzoic acid | 5.5 mmol, 1.73 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-N4-isopropyl-N2-[4-(methylsulfinyl)phenyl)-pyrimidine-2,4-diamine | BrC=1C(=NC(=NC1)NC1=CC=C(C=C1)S(=O)C)NC(C)C | C14H17BrN4OS
